US05405851
A solution of ethyl 4-((1,2-dihydro-2-methoxymethyl-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoate in THF:1N HCl: concentrated HCl (15:10:1, 26 ml) was stirred at 60° C. overnight. The resulting suspension was diluted with water, concentrated in vacuo to remove the THF, and chilled in an ice bath. The solid was filtered, washed with water, and dried in vacuo at 100° C. The resulting ester was dissolved in 1N NaOH (10 ml) and ethanol (~ 3 ml) and stirred at 60° C. for 4 hours. The solution was acidified with concentrated HCl to pH 1.5 and the resulting precipitate filtered and dried in vacuo at 110° C. to give 4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoic acid (0.195 g). 1H NMR (DMSO-d6, 300 MHz) δ: 2.59 (s, 3H, CH3), 5.46 (s, 2H, CH2O), 7.17 (d, J=9 Hz, 2H, Ar), 7.80 (overlapping d, J=9 Hz, 2H, Ar), 7.91 (d, J=9 Hz, 2H, Ar), 8.16 (d, J=8 Hz, 1H, Ar), 9.85 (s, 1H, Ar).

reactant | ethyl 4-((1,2-dihydro-2-methoxymethyl-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoate | COCN1C(=NC=2C=CC3=C(C2C1=O)C=C(C=C3)COC3=CC=C(C(=O)OCC)C=C3)C | C25H24N2O5
reactant | HCl | 1N | Cl | ClH
reactant | HCl | 26 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)methoxy)benzoic acid | 0.195 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)COC3=CC=C(C(=O)O)C=C3 | C21H16N2O4
